* mc-smoke -- Monte Carlo harness acceptance testbench (issue #8), NOT a
* comparator circuit and NOT a spec claim.
*
* Ported from 2AMLogic/sky130-sar-adc's sim/mc-smoke/testbench/mc_smoke.spice
* (commit b80c144efbf467a586f728726cabb25c1eb5a1f2) -- identical PDK
* (sky130), so the fragment carries over unchanged.
*
* Netlist FRAGMENT. sim/harness/mc_runner.py supplies the title, the .lib
* include (mismatch corner for the "real" draws, plain corner for the
* negative control), .temp, .param vdd_val, .option rndseed, the .control
* block and .end.
*
* A single diode-connected sky130_fd_pr__nfet_01v8 biased at a fixed
* 10 uA, deliberately small (w=1u, l=0.5u) to give AGAUSS() threshold/
* geometry mismatch terms a visible effect on Vgs at this bias -- this is
* the same topology sim/harness-corner-smoke/ uses for its PVT-corner
* proof, sized down here for a measurable mismatch *distribution* instead
* of a measurable corner *point*.
Vdd vdd 0 dc {vdd_val}

Ibias vdd nbias dc 10u
XM1 nbias nbias 0 0 sky130_fd_pr__nfet_01v8 l=0.5 w=1 nf=1
